US05885986
0.84 g (0.00212 mol) of 8-fluoro-5-methyl-3-(5-piperidin-1-ylmethyl-oxazol-2-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one was dissolved in 30 ml of hot ethanol and treated at 50° with 0.60 ml (0.00227 mol) of 3.7N ethanolic hydrochloric acid. After stirring at 0° for 1 hr. the white suspension was suction filtered. There was obtained 0.80 g (87%) of 8-fluoro-5-methyl-3-(5-piperidin-1-ylmethyl-oxazol-2-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as yellowish crystals; m.p. 276°-280° (dec.).

reactant | 8-fluoro-5-methyl-3-(5-piperidin-1-ylmethyl-oxazol-2-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 0.00212 mol, 0.84 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C=3OC(=CN3)CN3CCCCC3)C)=O)C1 | C21H22FN5O2
reactant | hydrochloric acid | 0.00227 mol, 3.7N, 0.60 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 8-fluoro-5-methyl-3-(5-piperidin-1-ylmethyl-oxazol-2-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.80 g, 87% | Cl.FC=1C=CC2=C(C(N(CC=3N2C=NC3C=3OC(=CN3)CN3CCCCC3)C)=O)C1 | InChI=1S/C21H22FN5O2.ClH/c1-25-12-18-19(20-23-10-15(29-20)11-26-7-3-2-4-8-26)24-13-27(18)17-6-5-14(22)9-16(17)21(25)28;/h5-6,9-10,13H,2-4,7-8,11-12H2,1H3;1H
